US07429665B2
4-[2-(4-Benzyloxy-phenyl-2H-pyrazol-3-yl]-pyridine
To a solution of 3-Dimethylamino-1-pyridin-4-yl-propenone (590 mg) in methanol (10 ml) was added acetic acid (0.5 ml) and (4-Benzyloxy-phenyl)-hydrazine hydrogen chloride (836 mg) and the reaction mixture heated to 60° C. for 6 h. The reaction mixture was poured into saturated sodium bicarbonate, extracted with ethyl acetate, dried magnesium sulfate, filtered and concentrated. Purification via combiflash MPLC provided the title compound (795 mg). MS: (M+H m/z=328.1).

reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | (4-Benzyloxy-phenyl)-hydrazine hydrogen chloride | 836 mg | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-(4-Benzyloxy-phenyl-2H-pyrazol-3-yl]-pyridine | 795 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1N=CC=C1C1=NC=CC=C1 | C21H17N3O
